US06146547
2-(4-Octylphenyl)pyridin-5-yl-boric acid (10 g) was mixed with 20 ml of aqueous hydrogen peroxide (36%), methanol (80 ml) and THF (80 ml) to stand overnight under gentle agitation at room temperature. Organic matter in the reaction mixture was extracted by diethyl ether (200 ml), followed by washing the extract sequentially with saturated aqueous sodium hydrogen sulfite, distilled water and aqueous ammonium chloride to be dried over MgSO4. This extract mixture was concentrated by distilling off the solvent to obtain solid product, which was purified by recrystallization from mixed solvent of heptane and ethyl acetate to give 5-hydroxy-2-(4-octylphenyl)pyridine (5.8 g). The melting point of this product was found to be 134-135.5° C.

reactant | 2-(4-Octylphenyl)pyridin-5-yl-boric acid | 10 g | C(CCCCCCC)C1=CC=C(C=C1)C1=NC=C(C=C1)OB(O)O | C19H26BNO3
reactant | hydrogen peroxide | 20 ml | OO | H2O2
reactant | methanol | 80 ml | CO | CH4O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 5-hydroxy-2-(4-octylphenyl)pyridine | 5.8 g | OC=1C=CC(=NC1)C1=CC=C(C=C1)CCCCCCCC | C19H25NO
